US07390910B2
Using General Procedure I Method A, (2S)-(tert-Butoxycarbonyl-methyl-amino)-3-methyl-butyric acid (0.37 g, 1.6 mmol) is coupled to L-proline methyl ester hydrochloride (0.26 g, 1.6 mmol) to give 1-[2-(tert-butoxycarbonyl-methyl-amino)-3-methyl-butyryl]-pyrrolidine-2-carboxylic acid methyl ester (0.51 g, 93%) as a white solid.

reactant | (2S)-(tert-Butoxycarbonyl-methyl-amino)-3-methyl-butyric acid | 1.6 mmol, 0.37 g | C(C)(C)(C)OC(=O)N(C)[C@H](C(=O)O)C(C)C | C11H21NO4
reactant | L-proline methyl ester hydrochloride | 1.6 mmol, 0.26 g | Cl.COC([C@H]1NCCC1)=O
product | 1-[2-(tert-butoxycarbonyl-methyl-amino)-3-methyl-butyryl]-pyrrolidine-2-carboxylic acid methyl ester | 0.51 g, 93% | COC(=O)C1N(CCC1)C(C(C(C)C)N(C)C(=O)OC(C)(C)C)=O | C17H30N2O5
